US07067517B2
Methyl-phenyl-carbamic acid 5-[(6-chloro-pyridine-3-carbonyl)-amino]-pyridin-2-yl ester
A mixture of 4-chloro-N-(6-hydroxy-pyridin-3-yl)-nicotinamide (0.56 g, 2.25 mmol), N-methyl-N-phenylcarbamoyl chloride (0.51 g, 3.00 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.67 g, 6.00 mmol) in dry tetrahydrofuran (15 mL) was stirred at room temperature for 1 hour. Dichloromethane was added and the solution was extracted twice with water. The organic layer was dried over sodium sulphate, filtered and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane 70:30) followed by crystallised from ethyl acetate:heptane, yielding the title compound (44 mg, 5% yield)

reactant | 4-chloro-N-(6-hydroxy-pyridin-3-yl)-nicotinamide | 2.25 mmol, 0.56 g | ClC1=CC=NC=C1C(=O)NC=1C=NC(=CC1)O | C11H8ClN3O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 3.00 mmol, 0.51 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 6.00 mmol, 0.67 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | Methyl-phenyl-carbamic acid 5-[(6-chloro-pyridine-3-carbonyl)-amino]-pyridin-2-yl ester | 44 mg, 5% yield | ClC1=CC=C(C=N1)C(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C19H15ClN4O3
